US09376422B2
Step 1: Synthesis of 5-fluoro-4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a stirred solution of 2-cyanoacetamide (689 mg, 8.2 mmol) in anhydrous EtOH (7.0 ml) at 75° C., was added 3-fluoropentane-2,4-dione (880 mg, 7.5 mmol), followed by piperidine (96 μl, 0.97 mmol). The reaction mixture was stirred at this temperature for 3 hours and the reaction mixture left to reach room temperature before being stored in the refrigerator for 4 days. The beige solid was collected by filtration and rinsed with cold EtOH (4×0.4 ml) until the filtrate ran clear. The resulting beige solid was dried in-vacuo at 40° C. for 5 hours to give the title compound (733 mg, 58%) as a beige solid. LC-MS 97%, m/z=166.9, 1H NMR (500 MHz, Chloroform-d) δ ppm 13.67 (br. s., 1H) 2.46 (d, J=2.05 Hz, 3H) 2.45 (d, J=2.84 Hz, 3H).

reactant | 2-cyanoacetamide | 8.2 mmol, 689 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 3-fluoropentane-2,4-dione | 7.5 mmol, 880 mg | FC(C(C)=O)C(C)=O | C5H7FO2
reactant | piperidine | 0.97 mmol, 96 μl | N1CCCCC1 | C5H11N
solvent | EtOH | 7.0 ml | CCO | C2H6O
product | 5-fluoro-4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 733 mg, 58% | FC=1C(=C(C(NC1C)=O)C#N)C | C8H7FN2O
